US08685969B2
4. 9-Bromo-2-trityl-2,3,4,5-tetrahydro-1H-pyrido[4,3-b]indole-6-carboxamide
A solution of 6,9-dibromo-2-trityl-2,3,4,5-tetrahydro-1H-pyrido[4,3-b]indole (purity about 75%, 650 mg, 0.852 mmol) in THF (10 mL) was stirred at −78° C. and treated with tert-butyllithium, 1.7 M in pentane (2.505 mL, 4.26 mmol) over 2-3 min. After stirring for about 5-10 min at −78° C., the red-orange solution was stirred on an ice-water bath for 2 h. The solution was then cooled again to −78° C. and treated with trimethylsilyl isocyanate (0.922 mL, 6.81 mmol). Stirring was continued while allowing the cooling bath to warm slowly to room temperature. After 19 h, the mixture was treated with water (5 mL) and extracted twice with EtOAc. The combined organic phases were dried and concentrated. The residue was subjected to column chromatography on silica gel (80 g), eluting with EtOAc-hexane (gradient from 20:80 to 100:0) to provide the desired product as an off-white solid (251 mg, 55% yield). LCMS (M+H-trityl)+ m/z 294, 296.

reactant | 6,9-dibromo-2-trityl-2,3,4,5-tetrahydro-1H-pyrido[4,3-b]indole | 0.852 mmol, 650 mg | BrC1=CC=C(C=2C3=C(NC12)CCN(C3)C(C3=CC=CC=C3)(C3=CC=CC=C3)C3=CC=CC=C3)Br | C30H24Br2N2
reactant | tert-butyllithium | C(C)(C)(C)[Li]
reactant | pentane | 4.26 mmol, 2.505 mL | CCCCC | C5H12
reactant | trimethylsilyl isocyanate | 6.81 mmol, 0.922 mL | C[Si](C)(C)N=C=O | C4H9NOSi
solvent | THF | 10 mL | C1CCOC1 | C4H8O
solvent | water | 5 mL | O | H2O
product | 9-Bromo-2-trityl-2,3,4,5-tetrahydro-1H-pyrido[4,3-b]indole-6-carboxamide | 251 mg, 55% yield | BrC1=C2C3=C(NC2=C(C=C1)C(=O)N)CCN(C3)C(C3=CC=CC=C3)(C3=CC=CC=C3)C3=CC=CC=C3 | C31H26BrN3O
